US06500946B1
Production of 9-(2,3-dideoxy-2-fluoro-β-D-threo- pentofuranosyl)-9H-purine-6-amine
35.3 mg (0.0710 mmols) of 9-[2,3-dideoxy-2-fluoro-5-O-(triphenylmethyl)-β-D-threo-pentofuranosyl]-9H-purine-6-amine was dissolved in 1.0 ml of acetic acid, and stirred at room temperature for about 4 hours and then at 80° C. for about 3 hours. To this was added 1.0 ml of acetic acid, and cooled to room temperature. This was concentrated, and the residue formed was taken out and purified through a silica gel plate (using 91% methylene chloride/ethanol). The fraction of the intended product was extracted with methanol, and the solvent was evaporated out to obtain 11.1 mg (yield 61.5%) of the product which was white solid. The physical data of the product obtained herein were the same as those disclosed in the literature.

reactant | 9-[2,3-dideoxy-2-fluoro-5-O-(triphenylmethyl)-β-D-threo-pentofuranosyl]-9H-purine-6-amine | 0.0710 mmols, 35.3 mg | F[C@@H]1[C@@H](O[C@@H](C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C2=NC=NC(=C2N=C1)N | C29H26FN5O2
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
product | 9-(2,3-dideoxy-2-fluoro-β-D-threo- pentofuranosyl)-9H-purine-6-amine | 11.1 mg, yield 61.5% | F[C@@H]1[C@@H](O[C@@H](C1)CO)N1C2=NC=NC(=C2N=C1)N | C10H12FN5O2
